US04021479
4-(2'-Cyano-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2'-cyanobiphenylyl)-4-oxo-butyric acid. Melting point of the cyclohexylamine salt: 167°-168° C. (from ethyl acetate by addition of 15% methanol). Yield: 94% of theory.

reactant | 4-(2'-cyanobiphenylyl)-4-oxo-butyric acid | C(#N)C1=C(C=CC=C1)C1=C(C=CC=C1)C(CCC(=O)O)=O | C17H13NO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
product | 4-(2'-Cyano-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 94% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C17H15NO3
